US08372837B2
To a stirring solution of 5-methoxy-2-(4-methoxybenzyl)pyridazin-3(2H)-one (117 mg, 0.47 mmol) in THF (3 mL) at room temperature under argon was added 1M NaOH (2.0 mL, 2.0 mmol). The resulting reaction mixture was heated at 80° C. under argon for a day and monitored by LCMS until the reaction was completed. EtOAc (20 mL), 1 M HCl (2 mL), and water (10 mL) were added to the reaction mixture. Layers were separated. Organic layer were washed with water (15 mL), and brine (15 mL). Organic phase was dried (MgSO4), filtered and concentrated. The crude product was dissolved in a small amount of DCM (˜2 ml) and loaded onto a 40 g ISCO silica gel column which was eluted with a 20 min gradient from 20% to 100% EtOAc/Hexanes. 95 mg (77%) of 5-hydroxy-2-(4-methoxybenzyl)pyridazin-3(2H)-one was obtained as a gum. MS (ESI) 233 (M+H).

reactant | 5-methoxy-2-(4-methoxybenzyl)pyridazin-3(2H)-one | 0.47 mmol, 117 mg | COC1=CC(N(N=C1)CC1=CC=C(C=C1)OC)=O | C13H14N2O3
reactant | NaOH | 2.0 mmol, 1M, 2.0 mL | [OH-].[Na+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 1 M, 2 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 5-hydroxy-2-(4-methoxybenzyl)pyridazin-3(2H)-one | 95 mg, 77% | OC1=CC(N(N=C1)CC1=CC=C(C=C1)OC)=O | C12H12N2O3
